US06953787B2
N-Trifluoroacetyl-7-allyloxy-8-bromo-1,4-dimethyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution N-trifluoroacetyl-8-bromo-1,4-dimethyl-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.030 g, 0.082 mmol) in dichloromethane (2 mL) was treated with allyl bromide (0.030 g, 0.246 mmol), DBU (0.037 g, 0.246 mmol) and stirred 2 hours at 20 C. The product mixture was diluted with EtOAc (10 mL), washed with 5% aqueous HCl (2 mL), brine (5 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 0.028 g of a clear oil. 1H NMR (400 MHz, CDCl3, mixture of rotamers) d 7.32 (s, 1 H), 6.62 (m, 1 H), 6.02 (m, 1 H), 5.45 (d, J=17 Hz, 1 H), 5.30 (d, J=11 Hz, 1 H), 4.58 (s, 2 H), 4.36 (m, 1 H), 3.62 (m, 1 H), 3.23 (m, 1 H), 3.11 (m, 1 H), 2.81 (d, J=10 Hz, 1 H), 2.70 (m, 1 H), 1.34 (m, 3 H), 1.21 (m, 3 H).

reactant | N-trifluoroacetyl-8-bromo-1,4-dimethyl-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.082 mmol, 0.030 g | FC(C(=O)N1C(CC2=C(C(C1)C)C=C(C(=C2)O)Br)C)(F)F | C14H15BrF3NO2
reactant | allyl bromide | 0.246 mmol, 0.030 g | C(C=C)Br | C3H5Br
reactant | DBU | 0.246 mmol, 0.037 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-7-allyloxy-8-bromo-1,4-dimethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.028 g | FC(C(=O)N1C(CC2=C(C(C1)C)C=C(C(=C2)OCC=C)Br)C)(F)F | C17H19BrF3NO2
